US04743555
4-Formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 [tetradeca-2,4,6-trien-8-ylmethyl carbamate (50 mg) was dissolved in methanol (5 ml). Aniline (0.50 ml) was added to this solution and the mixture was allowed to stand at room temperature for 3 hours to give a solution containing 6,9-dihydroxy-4-phenyliminomethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate. 10% Palladium on carbon (100 mg) was added to the solution, and the mixture was stirred for 2 hours at room temperature under hydrogen atmosphere (4.5 atm). The mixture was filtered through cellulose powder and the filter cake was washed with methanol (20 ml). The filtrate and the washings were combined and evaporated in vacuo. The residue was subjected to preparative thin layer chromatography, which was developed with a mixture of chloroform, methanol and water (65:25:4, v/v/v) to afford 4-anilinomethyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (25 mg).

reactant | tetradeca-2,4,6-trien-8-ylmethyl carbamate | 50 mg | C(N)(OCC(C=CC=CC=CC)CCCCCC)=O | C16H27NO2
reactant | Aniline | 0.50 ml | NC1=CC=CC=C1 | C6H7N
reactant | 6,9-dihydroxy-4-phenyliminomethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)C=NC2=CC=CC=C2)O)=O | C20H20N4O5
solvent | methanol | 5 ml | CO | CH4O
catalyst | Palladium on carbon | 100 mg | [Pd] | Pd
product | 4-anilinomethyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 25 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)CNC2=CC=CC=C2)O)=O | C20H22N4O5
